US05455252
2-bromo-4-ethylaniline and 3-trifluoromethylbenzene boronic acid can be combined to form 2-(3-trifluoromethylphenyl)-4-ethylaniline,

reactant | 2-bromo-4-ethylaniline | BrC1=C(N)C=CC(=C1)CC | C8H10BrN
reactant | 3-trifluoromethylbenzene boronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
product | 2-(3-trifluoromethylphenyl)-4-ethylaniline | FC(C=1C=C(C=CC1)C1=C(N)C=CC(=C1)CC)(F)F | C15H14F3N
